US04898938
Crystalline Cefadroxil monohydate
Cefadroxil 1-methyl-2-pyrrolidone solvate (30 g) prepared according to example 4 was slurried in isopropyl alcohol (150 ml) containing 10 ml of water at 50°-52° C. for 120'.

reactant | Cefadroxil 1-methyl-2-pyrrolidone | 30 g | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)SC1)C(=O)O.CN1C(CCC1)=O
reactant | water | 10 ml | O | H2O
solvent | isopropyl alcohol | 150 ml | C(C)(C)O | C3H8O
product | Cefadroxil | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)SC1)C(=O)O | C16H17N3O5S
